US08791267B2
Synthesis of 2,2-Difluoro-benzo[1,3]dioxol-5-yl-boranic acid (I-187):
A solution of tert-butyl lithium (1.15 mL, 1.95 mmol) in anhydrous diethyl ether (5 mL) was cooled to −78° C. under nitrogen. 5-bromo-2,2-difluoro-benzo[1,3]dioxole (180 mg, 0.760 mmol) in diethyl ether (0.80 mL) was added, and the reaction was stirred for 1 h at −78° C., followed by the addition of triisopropylborate (0.37 mL, 1.60 mmol) under nitrogen. The reaction allowed to stir for 1.5 h while allowing to warm to ambient temperature. The reaction was poured into 4 N aqueous sodium hydroxide (5 mL), stirred, and adjusted to pH ˜1 by the dropwise addition of concentrated aqueous hydrochloric acid, and the product extracted with ethyl acetate (10 mL). The organic extract was dried over anhydrous sodium sulfate, filtered, and the solvent removed under vacuum to afford 140.2 mg of I-187 as a brown solid, which was taken on without further purification.

reactant | tert-butyl lithium | 1.95 mmol, 1.15 mL | C(C)(C)(C)[Li]
reactant | 5-bromo-2,2-difluoro-benzo[1,3]dioxole | 0.760 mmol, 180 mg | BrC1=CC2=C(OC(O2)(F)F)C=C1 | C7H3BrF2O2
reactant | triisopropylborate | 1.60 mmol, 0.37 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | sodium hydroxide | 4 N, 5 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 0.80 mL | C(C)OCC | C4H10O
product | 2,2-Difluoro-benzo[1,3]dioxol-5-yl-boranic acid | FC1(OC2=C(O1)C=CC(=C2)OB=O)F | C7H3BF2O4
